US04948810
623 mg of methyl {4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetylamino}acetate are dissolved in 8 ml of methanol, and 2.8 ml of an aqueous 1N sodium hydroxide solution are added thereto. After the mixture is allowed to stand for 3 hours, the mixture is made acidic with 10% hydrochloric acid, extracted with ethyl acetate, dried and evaporated to remove the solvent. The residue is recrystallized from a mixture of tetrahydrofuran, isoproylether and n-hexane. 560 mg of {4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetylamino}acetic acid are obtained as colorless prisms.

reactant | methyl {4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetylamino}acetate | 623 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OC(C(=O)NCC(=O)OC)F)C=C1 | C19H20ClFN2O6S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | {4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetylamino}acetic acid | 560 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OC(C(=O)NCC(=O)O)F)C=C1 | C18H18ClFN2O6S
